US04188341
14.0 g (0.25 mol) of acrolein is added dropwise at maximal temperature of 40° C. to a solution of 23.3 g (0.15 mol) of N-(2-penten-2-yl)-morpholine in 100 ml of abs. chloroform. The mixture is stirred for 15 hours at 25° C. and then for further 15 hours at 50° C. Thereafter the solvent is distilled off and the residue is transferred into an autoclave and, after addition of 400 ml concentrated aqueous ammonia and 10.0 g of paladium coal (5%) the whole is heated under a nitrogen pressure of 50 bar for 15 hours at 280° to 290° C. Subsequently the catalyst is separated by filtration and washed with ether. After separation of the etheral layer the filtrate is several times extracted with ether. The extracts are combined and dried over magnesium sulphate and the ether is distilled off. The residue (22 g) is distilled in vacuo. There is obtained 6.5 g (35% of theory) of 2,6-dimethylaniline, b.p. 15 : 94°-96° C.

reactant | acrolein | 0.25 mol, 14.0 g | C(=O)C=C | C3H4O
reactant | N-(2-penten-2-yl)-morpholine | 0.15 mol, 23.3 g | CC(=CCC)N1CCOCC1 | C9H17NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,6-dimethylaniline | 6.5 g, 35% | CC1=C(N)C(=CC=C1)C | C8H11N
